US04988686
3-diphenylmethoxy-6-formyl-1-(2-furyl)methyl-4-pyridone
To a solution of 2.700 g of 3-diphenylmethoxy-1-(2-furyl)methyl-6-hydroxymethyl-4-pyridone in 200 ml of methanol is added 15.00 g of active manganese dioxide at room temperature, and the mixture is stirred for 4 hours. After insolubles are removed by filtration, the filtrate is subjected to flash column chromatography on 120 g of Wako-Gel C-300 (manufactured by Wako Pure Chemical Industries, Ltd.) with an eluent of chloroform-methanol (20:1) to perform separation and purification. The title compound (2.163 g) is obtained as colorless foam.

reactant | 3-diphenylmethoxy-1-(2-furyl)methyl-6-hydroxymethyl-4-pyridone | 2.700 g | C1(=CC=CC=C1)C(OC1=CN(C(=CC1=O)CO)CC=1OC=CC1)C1=CC=CC=C1 | C24H21NO4
solvent | methanol | 200 ml | CO | CH4O
catalyst | manganese dioxide | 15.00 g | [O-2].[O-2].[Mn+4]
product | 3-diphenylmethoxy-6-formyl-1-(2-furyl)methyl-4-pyridone | 2.163 g | C1(=CC=CC=C1)C(OC1=CN(C(=CC1=O)C=O)CC=1OC=CC1)C1=CC=CC=C1 | C24H19NO4
